US07371749B2
2-Methoxymethyl-3-methyl-3H-imidazole-4-carboxylic acid methyl ester
A solution of 2-hydroxymethyl-3-methyl-3H-imidazole-4-carboxylic acid methyl ester (250 mg, 1.5 mmol) in dimethylformamide (10 ml) is subsequently treated with sodium hydride (71 mg 60% dispersion in mineral oil, 1.8 mmol) and after 0.5 h with dimethyl sulfate (0.17 ml, 1.8 mmol). After 1 h at ambient temperature, the volatile componantes are removed in vacuo, the residue taken up in ethyl accetate (20 ml) and water (20 ml) and the phases separated. The aqueous phase is extracted twice with ethyl acetate (20 ml each) and the combined organic layers are dryed with magnesium sulfate and evaporated to dryness. Flash chromatography (silica, eluent dichloromethane containing 4% methanol) afforded the title compound as white crystals (42% yield). MS: m/e=185(M+H+), mp 74-77° C.

reactant | 2-hydroxymethyl-3-methyl-3H-imidazole-4-carboxylic acid methyl ester | 1.5 mmol, 250 mg | COC(=O)C=1N(C(=NC1)CO)C | C7H10N2O3
reactant | sodium hydride | 1.8 mmol, 71 mg | [H-].[Na+]
reactant | dimethyl sulfate | 1.8 mmol, 0.17 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-Methoxymethyl-3-methyl-3H-imidazole-4-carboxylic acid methyl ester | 42% yield | COC(=O)C=1N(C(=NC1)COC)C | C8H12N2O3
